US05807857
6. Ethyl 3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propionate
Ethyl-3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-enoate (0.5 g, 1.8 mmol) was hydrogenated over palladium on carbon (10%, 0.2 g) in methanol (75 mL) at 45 psi of hydrogen for 90 min. The catalyst was removed by filtration and the solvent evaporated in vacuo to give the title compound (0.455 g, 90%) as a colourless solid. mp 129°-131° C. 1H NMR (360 MHz, CDCl3) δ 1.24 (3H, t, J=7.1Hz), 2.72 (2H, t, J=7.4Hz), 3.13 (2H, t, J=7.4Hz), 4.14 (2H, q, J=7.1Hz), 7.31 (1H, d, J=2.3Hz), 8.08 (1H, s), 8.11 (1H, s), 8.54-8.60 (2H, m) and 9.15 (1H, s).

reactant | Ethyl-3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-enoate | 1.8 mmol, 0.5 g | C(C)OC(C=CC1=CNC2=CN=C(C=C21)N2N=CN=C2)=O | C14H13N5O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | methanol | 75 mL | CO | CH4O
product | Ethyl 3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propionate | 0.455 g, 90% | N1(N=CN=C1)C=1C=C2C(=CN1)NC=C2CCC(=O)OCC | C14H15N5O2
